US05389626
9(a) Diphenylmethyl 7-allyloxyformamido-3-(4-carbamoylphenoxy)methyl-3-cephem-4-carboxylate
A solution of 0.3 ml of dimethyl azodicarboxylate in 20 ml of tetrahydrofuran was added dropwise over a period of 15 minutes to a solution of 1.00 g of diphenylmethyl 7-allyloxyformamido-3-hydroxymethyl-3-cephem-4-carboxylate, 660 mg of triphenylphosphine and 350 mg of p-hydroxybenzamido in 20 ml of tetrahydrofuran, whilst ice-cooling and stirring. After stirring the reaction mixture, whilst ice-cooling it, for a further 15 minutes, it was diluted with ethyl acetate. The mixture was then washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure, and the resulting residue was purified by column chromatography through silica gel to afford 207 mg of the title compound as a powder.

reactant | dimethyl azodicarboxylate | 0.3 ml | N(=NC(=O)OC)C(=O)OC | C4H6N2O4
reactant | diphenylmethyl 7-allyloxyformamido-3-hydroxymethyl-3-cephem-4-carboxylate | 1.00 g | C(C=C)OC(=O)NC1[C@@H]2N(C(=C(CS2)CO)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C25H24N2O6S
reactant | triphenylphosphine | 660 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Diphenylmethyl 7-allyloxyformamido-3-(4-carbamoylphenoxy)methyl-3-cephem-4-carboxylate | 207 mg | C(C=C)OC(=O)NC1[C@@H]2N(C(=C(CS2)COC2=CC=C(C=C2)C(N)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C32H29N3O7S
